US08426420B2
ii) (S)-4-(4-Benzyl-2H-tetrazol-5-yl)-2-tert-butoxycarbonylamino-butyric acid benzyl ester
To a suspension of 0.83 g (S)-4-benzylcarbamoyl-2-tert-butoxycarbonylamino-butyric acid benzyl ester and 1.28 g triphenylphosphine in 16 ml acetonitrile were added dropwise at 0° C. 1.00 ml diisopropylazodicarboxylate and after 2 minutes 0.67 ml trimethylsilylazide over a period of 10 minutes. After 30 minutes the mixture was allowed to warm to RT and stirred for 12 h. The mixture was cooled to 0° C. and 0.67 ml aqueous sodium nitrite (2.9 M) were added, after 30 minutes a solution of 1.07 g ceric ammonium nitrate in 10 ml water was added and stirred for another 20 minutes. After this time the mixture was poured into ice and extracted twice with dichloromethane.

reactant | (S)-4-benzylcarbamoyl-2-tert-butoxycarbonylamino-butyric acid benzyl ester | 0.83 g | C(C1=CC=CC=C1)OC([C@H](CCC(NCC1=CC=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C24H30N2O5
reactant | triphenylphosphine | 1.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.00 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | trimethylsilylazide | 0.67 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | sodium nitrite | 2.9 M, 0.67 ml | N(=O)[O-].[Na+]
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | (S)-4-(4-Benzyl-2H-tetrazol-5-yl)-2-tert-butoxycarbonylamino-butyric acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CCC=1N(NNN1)CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H31N5O4
